Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Reglan / Phenergan / Prochlorperazine
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ at 10wk by dates, c/w bedside ultrasound, presents 
for nausea and vomiting in pregnancy in the setting of severe 
hyperemesis gravidarum in all previous pregnancies. Has had N/V 
on and off during this pregnancy, however, over the last two 
days it has become much more severe. She has been unable to 
leave the house, has not been able to keep down food or water, 
vomiting "countless" times. Endorses lightheadedness, dizziness 
and R frontal HA, but no episodes of syncope. She thinks her 
weight is stable, but she has not weighed herself recently.

Unplanned pregnancy, very traumatized by prior pregnancy course, 
but plans to continue with this pregnancy. Endorses cramping/abd 
pain in her upper abdomen, had one episode of vaginal spotting 
last week, no bleeding over the last five days.
 
Past Medical History:
OBHx:
-SAB x1 
-TAB x5, for intolerable hyperemesis, most advanced at 18wk
-pLTCS in ___ at 35w3d: during this pregnancy, she was 
diagnosed
with hyperemesis gravidarum (hospitalized for 7 months), 
received
TPN via PICC line, failed outpatient home visiting nurse
management

___:
menarche: 13 
menses irregular periods q1-2 months for ___ days
STIs: chlamydia ___ treated with antibiotics
last pap: ___, nl
hx of abnormal pap: LSIL in ___, nl since then 

Past Medical History:
- h/o PE from PICC line thrombosis in pregnancy
- adjustment disorder followed by Dr. ___. Reports stable 
mood,
no SI/HI

Past Surgical History:
C-section x1
liposuction 
multiple D&E
 
Social History:
 
Physical Exam:
On admission:
General: Comfortable, alert, no acute distress
CV: RRR
Pulm: normal work of breathing, CTAB
Abd: soft, mildly tender to palpation, no rebound or guarding, 
nondistended
GU: no CVA tenderness
Extremities: warm, calves non-tender, no edema
Skin: normal skin turgor
_____________________________
On discharge:
Fluid Balance (last updated ___ @ 636)
  Last 8 hours  Total cumulative 324ml
    IN: Total 324ml, IV Amt Infused 324ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 324ml
    IN: Total 324ml, IV Amt Infused 324ml
    OUT:  Total 0ml, Urine Amt 0ml

24 HR Data (last updated ___ @ 723)
    Temp: 98.2 (Tm 98.2), BP: 109/71 (97-109/65-71), HR: 75 
(74-75), RR: 18, O2 sat: 98% (98-99), O2 delivery: Ra, Wt: 168.9 
lb/76.61 kg

GENR: Awake and alert, NAD
RESP: normal work of breathing, no respiratory distress
___: gravid, fundus non-tender, no rebound/guarding
EXTR: wwp, calves non-tender, neg ___ sign bilat

Pelvic U/S: FINDINGS:  
An intrauterine gestational sac is seen and a single living 
embryo is identified with a crown rump length of 2.9 cm 
representing a gestational age of 9 weeks 6 days. The 
gestational age of 9 weeks 6 days is less than menstrual dates 
of 10 weeks, 6 days by 7 days. The uterus is normal. The ovaries 
are normal. 
  
IMPRESSION:  
Single live intrauterine pregnancy with a slight discrepancy (7 
days) in the gestational ages determined by LMP and crown rump 
length. The estimated date of delivery based on the LMP is ___.
 
Pertinent Results:
___ WBC-11.3 RBC-3.97 Hgb-12.1 Hct-35.7 MCV-90 Plt-316
___ Neuts-69.2 ___ Monos-7.6 Eos-0.9 Baso-0.4 Im 
___ AbsNeut-7.80 AbsLymp-2.42 AbsMono-0.86 AbsEos-0.10 
AbsBaso-0.04

___ BLOOD Glucose-79 BUN-5 Cre-0.6 Na-135 K-5.6 Cl-104 
HCO3-18
___ BLOOD Glucose-82 BUN-6 Cre-0.6 Na-136 K-4.1 Cl-105 
HCO3-20

___ ALT-17 AST-14

___ Calcium-9.5 Phos-4.8 Mg-2.1
___ Calcium-9.2 Phos-4.7 Mg-2.0

___ TSH-1.7
___ HBsAg-NEG
___ RUB IgG-POS VZV IgG-Equivocal* Trep Ab-Equivocal*
___ HIV Ab-NEG

___ URINE Blood-NEG Nitrite-NEG Protein-30* Glucose-NEG 
Ketone-10* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM*
___ URINE RBC-1 WBC-5 Bacteri-MOD* Yeast-NONE Epi-5

URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
 SKIN AND/OR GENITAL CONTAMINATION
 
Brief Hospital Course:
___ yo ___ admitted at 10wk6d with nausea and vomiting of 
pregnancy. She was treated with IV fluids, antiemetics (Zofran, 
B6), and Pepcid. Electrolytes and TSH were normal on admission. 
Pelvic ultrasound confirmed a viable IUP. By hospital day #2, 
her symptoms had improved and she was tolerating po's. She was 
discharged to home with po anti-emetics and will have outpatient 
follow up.
 
Medications on Admission:
CLINDAMYCIN PHOSPHATE - clindamycin 1 % topical gel. apply to
hair bumps and after waxing twice daily
HYDROQUINONE - hydroquinone 4 % topical cream. apply to dark
spots twice a day
LEVONORGESTREL [MIRENA] - Mirena 20 mcg/24 hours ___ yrs) 52 mg
intrauterine device.   -  (Prescribed by Other Provider)
PLATFORM FOR AXILLARY CRUTCH - platform for axillary crutch  .
please provide platform dx: R distal radius fx
QUETIAPINE - quetiapine 25 mg tablet. one tablet(s) by mouth tab
at night as needed for sleep
TRIAMCINOLONE ACETONIDE - triamcinolone acetonide 0.025 % 
topical
cream. apply after waxing daily up to one week
 
Medications - OTC
DOXYLAMINE SUCCINATE [SLEEP AID (DOXYLAMINE)] - Sleep Aid
(doxylamine) 25 mg tablet. 1 tablet(s) by mouth once a day
PNV ___ FUMARATE-FA [PRENATAL] - Prenatal 28 mg
iron-800 mcg tablet. 1 tablet(s) by mouth once a day
PYRIDOXINE (VITAMIN B6) [VITAMIN B-6] - Vitamin B-6 25 mg 
tablet.
1 tablet(s) by mouth every six (6) hours
 
Discharge Medications:
1. Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
RX *bisacodyl 5 mg 1 tablet(s) by mouth twice per day as needed 
Disp #*30 Tablet Refills:*0 
2. Calcium Carbonate 500 mg PO QID:PRN Dyspepsia 
RX *calcium carbonate [Calcium 500] 500 mg calcium (1,250 mg) 
___ tablet(s) by mouth twice per day as needed Disp #*50 Tablet 
Refills:*1 
3. DiphenhydrAMINE 25 mg PO Q6H:PRN nausea 
RX *diphenhydramine HCl [Benadryl] 25 mg 1 capsule(s) by mouth 
every 6 hours as needed for nausea Disp #*50 Capsule Refills:*0 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
as needed Disp #*30 Capsule Refills:*0 
5. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - Second Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*50 Tablet Refills:*0 
6. Pyridoxine 50 mg PO DAILY 
RX *pyridoxine (vitamin B6) 50 mg 1 tablet(s) by mouth twice per 
day Disp #*50 Tablet Refills:*1 
7. Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice per day as 
needed Disp #*30 Tablet Refills:*0 
8. Prenatal Vitamins 1 TAB PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
nausea and vomiting
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with nausea and vomiting, 
likely related to your pregnancy. You were seen by the nutrition 
team to optimize your diet. You received IV fluids and 
anti-nausea medication and were able to tolerate a regular meal. 
The team now believes you are safe to be discharged home. 
 
Followup Instructions:
___